US05171860
3-Ethoxy-4-amino-5-t-butyloxycarbonylisothiazole-1,1-dioxide
To 3-ethoxy-4-bromo-5-t-butyloxycarbonylisothiazole-1,1-dioxide (340 mg, 1.0 mmol) in 5 ml of dry acetonitrile was added hexamethyldisilazane (242 mg, 1.5 mmol) and the solution was stirred at reflux for 7 hours. The reaction mixture was evaporated in vacuo and the residue was refluxed in 10 ml of ethanol for 3/4 hr. Removal of the ethanol in vacuo gave a crude oil which was chromatographed on silica gel. The product was recovered as a viscous yellow oil (210 mg). Trituration in petroleum ether gave a yellow solid, m.p. 128°-130° C. Mass spectral analysis confirmed the structure.

reactant | 3-ethoxy-4-bromo-5-t-butyloxycarbonylisothiazole-1,1-dioxide | 1.0 mmol, 340 mg | C(C)OC1=NS(C(=C1Br)C(=O)OC(C)(C)C)(=O)=O | C10H14BrNO5S
reactant | hexamethyldisilazane | 1.5 mmol, 242 mg | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-Ethoxy-4-amino-5-t-butyloxycarbonylisothiazole-1,1-dioxide | C(C)OC1=NS(C(=C1N)C(=O)OC(C)(C)C)(=O)=O | C10H16N2O5S
